### PR TITLE
[Merged by Bors] - feat(Topology/UniformSpace/Ultra): completion is ultra uniformity iff base is

### PR DESCRIPTION
**Pull request by pechersky**
Supersedes #24628

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
@pechersky It's not immediately obvious how this compares to #24628 (it looks very similar).

Can you briefly explain why you closed #24628 and opened this instead?

**Comment by pechersky** [comment]
Because the migration from Mathlib branches to personal fork branch PRs made it that I couldn't do a merge main and push on the previous PR. And I'm not a maintainer so I can't make pushes to Mathlib branches.

**Comment by ocfnash** [comment]
> Because the migration from Mathlib branches to personal fork branch PRs made it that I couldn't do a merge main and push on the previous PR. And I'm not a maintainer so I can't make pushes to Mathlib branches.

Ah of course, sorry I should have spotted this was a migrate-to-fork event. I've just run out of time for today but I'll try to review tomorrow.

File: Mathlib/Order/Filter/NAry.lean [hunk 1]
```diff
@@ -125,7 +125,7 @@ theorem map₂_pure : map₂ m (pure a) (pure b) = pure (m a b) := by rw [map₂
 
 theorem map₂_swap (m : α → β → γ) (f : Filter α) (g : Filter β) :
     map₂ m f g = map₂ (fun a b => m b a) g f := by
-  rw [← map_prod_eq_map₂, prod_comm, map_map, ← map_prod_eq_map₂, Function.comp_def]
+  rw [← map_prod_eq_map₂, prod_comm, map_map, ← map_prod_eq_map₂, Function.comp_def]; rfl
```
Comment (ocfnash) [inline Mathlib/Order/Filter/NAry.lean]: Total nitpick:
```suggestion
  rw [← map_prod_eq_map₂, prod_comm, map_map, ← map_prod_eq_map₂, Function.comp_def]
  simp
```

File: Mathlib/Order/Filter/Prod.lean [hunk 2]
```diff
@@ -281,6 +280,19 @@ theorem eventually_swap_iff {p : α × β → Prop} :
...
 
+lemma Eventually.trans_prod {h : Filter γ}
+    [NeBot g] {p : α → β → Prop} {q : β → γ → Prop} {r : α → γ → Prop}
+    (hp : ∀ᶠ xy in f ×ˢ g, p xy.1 xy.2) (hq : ∀ᶠ yz in g ×ˢ h, q yz.1 yz.2)
+    (hpqr : ∀ x y z, p x y → q y z → r x z) :
+    ∀ᶠ xz in f ×ˢ h, r xz.1 xz.2 := by
+  replace hp := hp.curry
+  replace hq := eventually_swap_iff.mp hq |>.curry
+  -- Note: the assumptions are slightly too strong, we can replace them by what `hp` and `hq`
+  -- are at this point if needed
```
Comment (ocfnash) [inline Mathlib/Order/Filter/Prod.lean]: This is a good point, so why not make the assumptions:
```lean
    (hp : ∀ᶠ x in f, ∀ᶠ y in g, p x y)
    (hq : ∀ᶠ x in h, ∀ᶠ y in g, q y x)
```
?

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+import Mathlib.Topology.UniformSpace.Completion
+import Mathlib.Topology.UniformSpace.Ultra.Basic
+import Mathlib.Topology.UniformSpace.Ultra.Constructions
+
+/-!
+# Completions of ultrametric (nonarchimedean) uniform spaces
+
+## Main results
+
+* `IsUltraUniformity.completion_iff`: a hausdorff completion has a nonarchimedean uniformity
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ultra/Completion.lean]:
```suggestion
* `IsUltraUniformity.completion_iff`: a Hausdorff completion has a nonarchimedean uniformity
```

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+  iff the underlying space has a nonarchimedean uniformity.
+
+-/
+
+variable {X Y : Type*}
+
+open Filter Set Topology Uniformity
+
+lemma IsUltraUniformity.of_isUniformInducing {Y : Type*} [UniformSpace X] [UniformSpace Y]
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ultra/Completion.lean]:
```suggestion
lemma IsUniformInducing.isUltraUniformity [UniformSpace X] [UniformSpace Y]
```

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+# Completions of ultrametric (nonarchimedean) uniform spaces
+
+## Main results
+
+* `IsUltraUniformity.completion_iff`: a hausdorff completion has a nonarchimedean uniformity
+  iff the underlying space has a nonarchimedean uniformity.
+
+-/
+
+variable {X Y : Type*}
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ultra/Completion.lean]:
```suggestion
variable {X Y : Type*} [UniformSpace X] [UniformSpace Y]
```
and then you can drop all the `[UniformSpace _]` arguments in the lemmas below.

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+  intro f g h hfg hgh
+  exact hs.mem_filter_prod_comm hfg hgh
+
+instance IsUltraUniformity.cauchyFilter [UniformSpace X] [IsUltraUniformity X] :
+    IsUltraUniformity (CauchyFilter X) := by
+  apply mk_of_hasBasis (CauchyFilter.basis_uniformity IsUltraUniformity.hasBasis)
+  · exact fun _ ⟨_, hU, _⟩ ↦ hU.cauchyFilter_gen
+  · exact fun _ ⟨_, _, hU⟩ ↦ hU.cauchyFilter_gen
+
+lemma IsUltraUniformity.cauchyFilter_iff [UniformSpace X] :
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ultra/Completion.lean]: This will hard ever fire but we might as well add:
```suggestion
@[simp] lemma IsUltraUniformity.cauchyFilter_iff [UniformSpace X] :
```

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+          Filter.mem_ker] at hc
+      exact hc _ hU'
+    exact ⟨a, d, hU (hU hab hbc) hcd, by simp, by simp⟩
+
+lemma IsUltraUniformity.separationQuotient_iff [UniformSpace X] :
+    IsUltraUniformity (SeparationQuotient X) ↔ IsUltraUniformity X :=
+  ⟨fun h ↦ h.of_isUniformInducing SeparationQuotient.isUniformInducing_mk,
+   fun _ ↦ inferInstance⟩
+
+lemma IsUltraUniformity.completion_iff [UniformSpace X] :
```
Comment (ocfnash) [inline Mathlib/Topology/UniformSpace/Ultra/Completion.lean]: As above:
```suggestion
@[simp] lemma IsUltraUniformity.completion_iff [UniformSpace X] :
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Sorry I was so slow coming back to this. Just a bunch of nitpicks.

bors d+

File: Mathlib/Order/Filter/Prod.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Order/Filter/Prod.lean]: Answering because I think I wrote this lemma as a suggestion on the original PR:
I just felt the current statement is a bit more natural to understand and to use, and I don't have in mind any use for the stronger statement, so I figured it could just exist as a comment.

If you want to have the stronger statement, I would argue in favor of keeping this specialization.

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean (hunk 4 above)
Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra/Completion.lean]: Do you mind if I make this change but keep the existing name as an alias? It works well with anonymous dot notation when constructing an IsUltraUniformity.

File: Mathlib/Order/Filter/Prod.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Order/Filter/Prod.lean]: No strong feelings here; happy to let author decide.

File: Mathlib/Topology/UniformSpace/Ultra/Completion.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/Topology/UniformSpace/Ultra/Completion.lean]: I did note that the new name works well in the proofs using this lemma in the PR. Is there an easy example you can share where the proposed name does not work well?

If you're really sure then I guess the alias is fine.
